US08445509B2
Production of 1-(4-fluoro-2-methylphenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile
2-Cyano-N-(4-fluoro-2-methylphenyl)acetamide (2.0 g, 10 mmol) and 4-methoxybut-3-en-2-one (1.4 mL, 13 mmol) were suspended in 2-(2-methoxyethoxy)ethanol (20 mL), and 1,4-diazabicyclo[2.2.2]octane (1.2 g, 10 mmol) was added. The mixture was stirred at 120° C. for 6 hr, and cooled to room temperature. The mixture was diluted with ethyl acetate (40 mL), and washed with saturated aqueous sodium hydrogen carbonate solution. Then the organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. Hexane-ethyl acetate was added to the residue, and the resulting precipitate was collected by filtration to give the title compound (630 mg, 25%) as a yellow solid.

reactant | 2-Cyano-N-(4-fluoro-2-methylphenyl)acetamide | 10 mmol, 2.0 g | C(#N)CC(=O)NC1=C(C=C(C=C1)F)C | C10H9FN2O
reactant | 4-methoxybut-3-en-2-one | 13 mmol, 1.4 mL | COC=CC(C)=O | C5H8O2
reactant | 1,4-diazabicyclo[2.2.2]octane | 10 mmol, 1.2 g | N12CCN(CC1)CC2 | C6H12N2
solvent | 2-(2-methoxyethoxy)ethanol | 20 mL | COCCOCCO | C5H12O3
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 1-(4-fluoro-2-methylphenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 630 mg, 25% | FC1=CC(=C(C=C1)N1C(C(=CC=C1C)C#N)=O)C | C14H11FN2O
